US09233958B2
2-[4-(Cyclopropylcarbonyl)phenoxy]butanamide
Tripotassium phosphate (8.17 g, 38.5 mmol) and ethyl 2-bromobutyrate (4.77 mL, 32.6 mmol) were added to an acetone (24 mL) solution of cyclopropyl(4-hydroxyphenyl)methanone (4.80 g, 29.6 mmol) at room temperature, and the mixture was stirred for 4 hours under reflux. Tripotassium phosphate (1.57 g, 7.40 mmol) and ethyl 2-bromobutyrate (1.08 mL, 7.40 mmol) were added to the mixture at room temperature, and the resulting mixture was stirred for 3 hours under reflux. After the reaction mixture was cooled to room temperature, water was added to the reaction mixture, and the resulting mixture was extracted once with acetone. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1→1:1, v/v). Subsequently, the compound thus obtained was dissolved in water (45 mL), then 5 M aqueous sodium hydroxide solution (8.78 mL, 44.4 mmol) was added to the mixture at room temperature, and the resulting mixture was stirred at the same temperature for 2 hours. Water and a saturated aqueous solution of ammonium chloride were added to the reaction mixture, and the mixture was extracted three times with ethyl acetate, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. Carbonyldiimidazole (7.20 g, 44.4 mmol) was added to a tetrahydrofuran (150 mL) solution of the compound thus obtained (7.35 g, 29.5 mmol) at room temperature, and the mixture was stirred at the same temperature for 30 minutes. A 28% aqueous ammonia solution (30 mL, excess amount) was added to the mixture at room temperature, and the resulting mixture was stirred at the same temperature for 30 minutes. Water was added to the reaction mixture, and the resulting mixture was extracted three times with ethyl acetate, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1→ethyl acetate, v/v) to give the title compound (6.41 g, yield: 87%).

reactant | Tripotassium phosphate | 38.5 mmol, 8.17 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ethyl 2-bromobutyrate | 32.6 mmol, 4.77 mL | BrC(C(=O)OCC)CC | C6H11BrO2
reactant | cyclopropyl(4-hydroxyphenyl)methanone | 29.6 mmol, 4.80 g | C1(CC1)C(=O)C1=CC=C(C=C1)O | C10H10O2
reactant | Tripotassium phosphate | 7.40 mmol, 1.57 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ethyl 2-bromobutyrate | 7.40 mmol, 1.08 mL | BrC(C(=O)OCC)CC | C6H11BrO2
reactant | sodium hydroxide | 44.4 mmol, 5 M, 8.78 mL | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Carbonyldiimidazole | 44.4 mmol, 7.20 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 30 mL | N | H3N
solvent | water | 45 mL | O | H2O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | acetone | 24 mL | CC(=O)C | C3H6O
product | 2-[4-(Cyclopropylcarbonyl)phenoxy]butanamide | 6.41 g, yield: 87% | C1(CC1)C(=O)C1=CC=C(OC(C(=O)N)CC)C=C1 | C14H17NO3
